US09403835B2
Step 2: 6-fluoro-5,7-dimethyl-2,3-dihydro-1H-2,4,7a,8-tetraaza-cyclopenta[a]indene hydrochloride
To a solution of 6-fluoro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carboxylic acid tert-butyl ester (3.39 g; 11.1 mmol; 1 eq.) in DCM (20 mL) was added 2M HCl (10 mL; 20 mmol; 1.81 eq.) and the resulting mixture was stirred at room temperature for 18 hours than concentrated in vacuo. The residue was triturated in DCM and the precipitate was filtered off to afford the title compound (2 g, 80%) as a white solid. HPLC (max plot) 99.6%; Rt 1.23 min. UPLC/MS: (MS+) 207.1 ([M+H]+).

reactant | 6-fluoro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carboxylic acid tert-butyl ester | 11.1 mmol, 3.39 g, 1 eq. | C(C)(C)(C)OC(=O)N1CC=2C(=C3N=C(C(=C(N3N2)C)F)C)C1 | C15H19FN4O2
reactant | HCl | 20 mmol, 2M, 10 mL, 1.81 eq. | Cl | ClH
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 6-fluoro-5,7-dimethyl-2,3-dihydro-1H-2,4,7a,8-tetraaza-cyclopenta[a]indene hydrochloride | 2 g, 80% | Cl.FC1=C(N2N=C3C(=C2N=C1C)CNC3)C | InChI=1S/C10H11FN4.ClH/c1-5-9(11)6(2)15-10(13-5)7-3-12-4-8(7)14-15;/h12H,3-4H2,1-2H3;1H
